US06683201B2
Inhibition of Human Liver Microsomal 2,3-oxidosqualene-lanosterol Cyclase (OSC)
After 1 hour at 37° C. the reaction was stopped by the addition of 0.6 ml of 10% KOH-methanol, 0.7 ml of water and 0.1 ml of hexane:ether (1:1, v/v) which contained 25 μg of non-radioactive MOS and 25 μg of lanosterol as carriers. After shaking, 1 ml of hexane:ether (1:1, v/v) was added to each test tube, these were again shaken and then centrifuged. The upper phase was transferred into a glass test tube, the lower phase was again extracted with hexane:ether and combined with the first extract. The entire extract was evaporated to dryness with nitrogen, the residue was suspended in 50 μl of hexane:ether and applied to a silica gel plate. Chromatographic separation was effected in hexane:ether (1:1, v/v) as the eluent. The Rf values for the MOS substrate and the lanosterol product were 0.91 and, respectively, 0.54. After drying, radioactive MOS and lanosterol were observed on the silica gel plate. The ratio of MOS to lanosterol was determined from the radioactive bands in order to determine the yield of the reaction and OSC inhibition.

reactant | KOH methanol | 0.6 ml | [OH-].[K+].CO
reactant | water | 0.7 ml | O | H2O
reactant | lanosterol | 25 μg | C[C@H](CCC=C(C)C)[C@H]1CC[C@@]2([C@@]1(CCC3=C2CC[C@@H]4[C@@]3(CC[C@@H](C4(C)C)O)C)C)C | C30H50O
solvent | hexane ether | 1 ml | CCCCCC.CCOCC
solvent | hexane ether | 0.1 ml | CCCCCC.CCOCC
product | 2,3-oxidosqualene lanosterol | CC(=CCC/C(=C/CC/C(=C/CC/C=C(\C)/CC/C=C(\C)/CCC1C(O1)(C)C)/C)/C)C.C[C@H](CCC=C(C)C)[C@H]1CC[C@@]2([C@@]1(CCC3=C2CC[C@@H]4[C@@]3(CC[C@@H](C4(C)C)O)C)C)C | 2C30H50O
